US07820662B2
5-iodo-7-phenyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine
Gaseous ammonia (from a lecture bottle) was condensed into a suspension of 4-chloro-5-iodo-7-phenyl-7H-pyrrolo[2,3-d]pyrimidine (30 mg, 0.084 mmol) in dioxane (2 mL) and iPrOH (2 mL) in a sealable glass tube, cooled by dry ice/acetone, until the volume increased by 2 mL, then the tube was sealed and heated to 100° C. overnight. The solvents were evaporated, water was added, the mixture was extracted with CH2Cl2 (3×30 mL), and the combined CH2Cl2 extracts were washed with brine, dried over MgSO4, filtered and concentrated to give the title compound as a white solid. 1H NMR (CDCl3, 400 MHz): δ=5.69 (brs, 2H), 7.36 (s, 1H), 7.36-7.41 (m, 1H), 7.49-7.55 (m, 2H), 7.60-7.64 (m, 2H), 8.33 (s, 1H). MS (ES+): m/z 337.0 (100) [MH+]. HPLC: tR=2.8 min (OpenLynx, polar—5 min).

reactant | ammonia | N | H3N
reactant | 4-chloro-5-iodo-7-phenyl-7H-pyrrolo[2,3-d]pyrimidine | 0.084 mmol, 30 mg | ClC=1C2=C(N=CN1)N(C=C2I)C2=CC=CC=C2 | C12H7ClIN3
reactant | dry ice acetone | C(=O)=O.CC(=O)C
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | iPrOH | 2 mL | CC(C)O | C3H8O
product | 5-iodo-7-phenyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | IC1=CN(C=2N=CN=C(C21)N)C2=CC=CC=C2 | C12H9IN4
